US07199239B2
[2-Methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetic acid
To a solution of ethyl [2-methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate (20 mg, 0.036 mmol) in MeOH (1 mL) and THF (1 mL) at room temperature was added 2M NaOH (0.5 mL, 1 mmol). The resultant mixture was stirred for 2 h. The solvents were removed in vacuo and the residue was partitioned between CH2Cl2 (2×10 mL) and 2M HCl (10 mL). The organic solution was passed though a hydrophobic frit and the solvent was removed in vacuo. Purification by autoprep. HPLC conducted on a Supelco ABZ+ column (5 μm, 10 cm×21.2 mm ID), eluting at a flow rate of 8 mL/min with a gradient of 50–95% B over 20 mins and held at 95% B for 10 mins. Where solvent A=0.1% HCO2H in H2O and solvent B=0.05% HCO2H in MeCN. The title compound was afforded as a yellow oil (10.7 mg).

reactant | ethyl [2-methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 0.036 mmol, 20 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)CCC | C28H30F3NO5S
reactant | NaOH | 1 mmol, 2M, 0.5 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [2-Methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)CCC | C26H26F3NO5S
